US04122260
3-[(Acetyloxy)methyl]-7-[[2-carboxy-2-(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
3-[(Acetyloxy)methyl]-7-[[2-carboethoxy-2-(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, tert-butyl ester, 0.05 m, is added to 50 ml of trifluoroacetic acid which is maintained at 0° C. The reaction mixture is stirred at 0° C for 15 minutes and then at 10° C for 15 minutes. The trifluoroacetic acid is removed in vacuo, the temperature of the mixture not rising above 20° C. The residue was taken up in methanol-water (4:1) and the pH adjusted to about 4 with ammonium hydroxide. The precipitate is filtered and the filtrate is concentrated and cooled to give the title compound.

reactant | 3-[(Acetyloxy)methyl]-7-[[2-carboethoxy-2-(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, tert-butyl ester | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(N1C(=CC=C1)C=O)C(=O)OCC)=O)=O)C(=O)OC(C)(C)C | C24H29N3O9S
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[(Acetyloxy)methyl]-7-[[2-carboxy-2-(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(N1C(=CC=C1)C=O)C(=O)O)=O)=O)C(=O)O | C18H17N3O9S
